US05149767
A solution of 75.0 g (0.374 mol) of benzylphenyl sulfide, 60.73 g (0.561 mol) of benzyl alcohol in 350 ml of methylene chloride is introduced into a reaction vessel provided with a stirrer and thermometer. 182.45 g (1.12 mol) of 54% by weight HBF4 in diethyl ether are added dropwise at an internal temperature of 20°-30° C. in the course of 35 min, while stirring. The reaction mixture is then stirred at RT for 2 h. The reaction mixture is diluted with 300-400 ml of methylene chloride and extracted 4 times with water (pH ~6). The organic phase is then dried over MgSO4 and the solvent is removed on a rotary evaporator. The yellow-brown oil which remains is stirred in 400 ml of toluene and the mixture is left to crystallize at 0°-5° C. for about 1 h. The suspension is filtered and the residue is washed with a little cooled toluene (0°-5° C.). The pure product is dried under a high vacuum at RT overnight. 123.8 g (87% of theory) of dibenzylphenylsulfonium tetrafluoroborate are obtained as white crystals of melting point 110°-115° C.

reactant | benzylphenyl sulfide | 0.374 mol, 75.0 g | C(C1=CC=CC=C1)SC1=CC=CC=C1 | C13H12S
reactant | benzyl alcohol | 0.561 mol, 60.73 g | C(C1=CC=CC=C1)O | C7H8O
reactant | HBF4 | [H+].[B-](F)(F)(F)F
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 300-400 ml | C(Cl)Cl | CH2Cl2
product | dibenzylphenylsulfonium tetrafluoroborate | 123.8 g, 87% | F[B-](F)(F)F.C(C1=CC=CC=C1)[S+](C1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C20H19S.BF4/c1-4-10-18(11-5-1)16-21(20-14-8-3-9-15-20)17-19-12-6-2-7-13-19;2-1(3,4)5/h1-15H,16-17H2;/q+1;-1
